US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile as described in Example 65 to give 4,2′-difluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile as a white solid: δH (400 MHz, CDCl3) 1.62 (6H, s), 4.47 (1H, s), 7.08 (1H, d, J 7), 7.39-7.46 (2H, m), 7.55 (1H, dd, J 8 and 3), 7.60-7.64 (3H, m), 7.85 (1H, s), 8.81 (1H, d, J 7); m/z (ES+) 391 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F)C | C18H16BF2NO2
product | 4,2′-difluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | FC=1C=C(C(=CC1C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=C(C=CC=C2)F)C#N | C22H16F2N4O
